US09352049B2
Preparation of benzyl 5-(1-chlorosilinan-1-yl)pentanoate
To a mixture of crude 1-chlorosilinane (0.35 g) and benzyl pent-4-enoate (0.50 g; 2.63 mmol) under argon was added two drops of Karstedt's catalyst solution (in xylenes; ˜2% Pt). The reaction vessel was sealed and the mixture was heated to 60° C. for 16 hours. The crude liquid was used without purification.

reactant | 1-chlorosilinane | 0.35 g | Cl[SiH]1CCCCC1 | C5H11ClSi
reactant | benzyl pent-4-enoate | 2.63 mmol, 0.50 g | C(CCC=C)(=O)OCC1=CC=CC=C1 | C12H14O2
product | benzyl 5-(1-chlorosilinan-1-yl)pentanoate | Cl[Si]1(CCCCC1)CCCCC(=O)OCC1=CC=CC=C1 | C17H25ClO2Si
